US08232307B2
(R)-Dimethyl-[6-(1,3,5-trimethyl-1H-pyrazol-4-yl)-indan-1-yl]-amine hydrochloride
HCl (0.9 mmol, 2 M solution in Et2O) was dropwise added to a solution of (R)-dimethyl-[6-(1,3,5-trimethyl-1H-pyrazol-4-yl)-indan-1-yl]-amine (1 mmol) in ethyl acetate. The reaction mixture was stirred at room temperature for 30 min and then the solvent was concentrated off. The resulting solid was suspended in acetone and the precipitate formed was collected by filtration, washed with acetone and vacuum dried, giving the title compound as a white solid (75%).

reactant | HCl | 0.9 mmol, 2 M | Cl | ClH
reactant | (R)-dimethyl-[6-(1,3,5-trimethyl-1H-pyrazol-4-yl)-indan-1-yl]-amine | 1 mmol | CN([C@@H]1CCC2=CC=C(C=C12)C=1C(=NN(C1C)C)C)C | C17H23N3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-Dimethyl-[6-(1,3,5-trimethyl-1H-pyrazol-4-yl)-indan-1-yl]-amine hydrochloride | 75% | Cl.CN([C@@H]1CCC2=CC=C(C=C12)C=1C(=NN(C1C)C)C)C | InChI=1S/C17H23N3.ClH/c1-11-17(12(2)20(5)18-11)14-7-6-13-8-9-16(19(3)4)15(13)10-14;/h6-7,10,16H,8-9H2,1-5H3;1H/t16-;/m1./s1
